US05703249
4-Methylene-9-methyl-9-vinyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane was prepared in a similar way to 4-methylene-9,9-dimethyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane starting from 115.7 mmol (35 g) of 4-bromomethyl-9-methyl-9-vinyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane, fractional distillation giving 10 g (43.2% yield) at 62° C. (0.1 mbar).

reactant | 4-methylene-9,9-dimethyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane | C=C1OCC2OC(OC2CO1)(C)C | C9H14O4
reactant | 4-bromomethyl-9-methyl-9-vinyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane | 115.7 mmol, 35 g | BrCC1OCC2OC(OC2CO1)(C=C)C | C10H15BrO4
product | 4-Methylene-9-methyl-9-vinyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane | 43.2% yield | C=C1OCC2OC(OC2CO1)(C=C)C | C10H14O4
